US09062048B2
Step D: 4-hydroxy-6-(trifluoromethyl)quinoline-2-carbonitrile
A solution of 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carbonitrile (5 g, 14 mmol) from above step C, in 15 mL DCM and 45 mL TFA was stirred for 2 h. Solvent was removed under vacuum and the residue was evaporated form toluene twice. The residue was dried under high vacuum. The resulting yellow solid was triturated with hot toluene, filtered and washed with ether to provide the title compound as a white solid.

reactant | 4-((4-methoxybenzyl)oxy)-6-(trifluoromethyl)quinoline-2-carbonitrile | 14 mmol, 5 g | COC1=CC=C(COC2=CC(=NC3=CC=C(C=C23)C(F)(F)F)C#N)C=C1 | C19H13F3N2O2
reactant | TFA | 45 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-6-(trifluoromethyl)quinoline-2-carbonitrile | OC1=CC(=NC2=CC=C(C=C12)C(F)(F)F)C#N | C11H5F3N2O
